US03960868
10 g of p-cycloheptyl-anilinomethylene-malonic acid diethyl ester are dissolved in 50 ml of phosphorus oxychloride, 0.2 g of polyphosphoric acid is added and the mixture is boiled for 2 hours under reflux, with exclusion of water. The mixture is then evaporated to dryness in vacuo, the evaporation residue is partitioned between 3 times 100 ml of methylene chloride and 3 times 100 ml of 2 N sodium hydroxide solution and the organic solution is washed until neutral, dried over sodium sulphate and evaporated to dryness in vacuo. The evaporation residue is treated with active charcoal and a little silica gel and crystallised from petroleum ether to give 3-carboethoxy-4-chloro-6-cycloheptyl-quinoline of melting point 61°-62°C.

reactant | p-cycloheptyl-anilinomethylene-malonic acid diethyl ester | 10 g | C(C)OC(C(C(=O)OCC)=CNC1=CC=C(C=C1)C1CCCCCC1)=O | C21H29NO4
reactant | water | O | H2O
reactant | phosphorus oxychloride | 50 ml | P(=O)(Cl)(Cl)Cl | Cl3OP
product | 3-carboethoxy-4-chloro-6-cycloheptyl-quinoline | C(=O)(OCC)C=1C=NC2=CC=C(C=C2C1Cl)C1CCCCCC1 | C19H22ClNO2
